US04713387
In 4.6 ml of methylene chloride was dissolved 910 mg of 3-[p-(3-acetoxy-1-hydroxy-2-methylpropyl)benzyl]pyridine, and to the resulting solution was added 0.48 ml of thionyl chloride with ice-cooling, after which the resulting mixture was subjected to reaction at the same temperature for one hour. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure, and to the residue thus obtained were added 10 ml of methyl acetate and 10 ml of water, after which the resulting mixture was neutralized with sodium hydrogencarbonate. The organic layer was separated, washed with 5 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: benzene:ethyl acetate (5:1 by volume)] to obtain 740 mg (yield 86.0%) of colorless, oily 3-[p-(3-acetoxy-1-chloro-2-methylpropyl)benzyl]pyridine.

reactant | 3-[p-(3-acetoxy-1-hydroxy-2-methylpropyl)benzyl]pyridine | 910 mg | C(C)(=O)OCC(C(O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C18H21NO3
reactant | thionyl chloride | 0.48 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl acetate | 10 ml | C(C)(=O)OC | C3H6O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 4.6 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 3-[p-(3-acetoxy-1-chloro-2-methylpropyl)benzyl]pyridine | yield 86.0% | C(C)(=O)OCC(C(Cl)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C18H20ClNO2
